US07906546B2
4.0 g (0.014 mol) of benzenesulfonyl-(3-oxo-cyclohexyl)-acetonitrile in 40 mL of DMF were treated with 0.69 g (0.016 mol, 1.1 eq) of NaH (55% in oil) portionwise within 30 min at 0° C. 3.07 g (0.022 mol, 1.5 eq) of methyliodide were added, and the ice bath was removed. After 2 hours, the reaction mixture was poured into water and extracted with EtOAc. The combined organic phases were dried over Na2SO4, filtered and evaporated. Column chromatography over silica gel with AcOEt/heptane 1:1 afforded 4 g (98%) of 2-benzenesulfonyl-2-(3-oxo-cyclohexyl)-propionitrile as a racemic mixture of diastereomers, white solid, MS: 292 (MH+).

reactant | benzenesulfonyl-(3-oxo-cyclohexyl)-acetonitrile | 0.014 mol, 4.0 g | C1(=CC=CC=C1)S(=O)(=O)C(C#N)C1CC(CCC1)=O | C14H15NO3S
reactant | NaH | 0.016 mol, 0.69 g, 1.1 eq | [H-].[Na+]
reactant | methyliodide | 0.022 mol, 3.07 g, 1.5 eq | CI | CH3I
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 2-benzenesulfonyl-2-(3-oxo-cyclohexyl)-propionitrile | 4 g, 98% | C1(=CC=CC=C1)S(=O)(=O)C(C#N)(C)C1CC(CCC1)=O | C15H17NO3S
